US05461154
2-Chloro-3-hydroxy benzoic acid
Chlorine gas (10.3 g; 147 mmol) was slowly bubbled through a cold solution of 20 g (145 mmol) of 3-hydroxy benzoic acid in 100-mL of methanol, under nitrogen, while maintaining the temperature below -60° C. After approximately thirty minutes, the chlorine gas was flushed out with nitrogen and the reaction mixture was allowed to warmed to room temperature and diluted with 100 mL of water. The desired titled compound was isolated by recrystallization to provide a white solid. This solid was purified by recyrstallization from 50 mL of water followed by recrystallization from 130 mL of benzene containing 10 mL of acetone to provide the desired titled compound.

reactant | Chlorine | 147 mmol, 10.3 g | ClCl | Cl2
reactant | 3-hydroxy benzoic acid | 145 mmol, 20 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
solvent | methanol | 100-mL | CO | CH4O
product | 2-Chloro-3-hydroxy benzoic acid | ClC1=C(C(=O)O)C=CC=C1O | C7H5ClO3
